US09085534B2
3-{[(4,4-dimethyl-1,2,3,4-tetrahydronaphthalen-1-yl)methyl]amino}pyridine-4-carboxylic acid
The title compound was prepared in 17% yield from 1-(4,4-dimethyl-1,2,3,4-tetrahydronaphthalen-1-yl)methanamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 5. 1H NMR (400 MHz, DMSO-d6): δ 13.36 (br s, 1H), 8.37 (s, 1H), 7.83 (d, 1H, J=5.0 Hz), 7.59 (br s, 1H), 7.55 (d, 1H, J=5.0 Hz), 7.38 (d, 1H, J=7.8 Hz), 7.26 (d, 1H, J=6.8 Hz), 7.07-7.19 (m, 2H), 3.47-3.58 (m, 2H), 3.07-3.11 (m, 1H), 1.77-1.90 (m, 3H), 1.51-1.57 (m, 1H), 1.31 (s, 3H), 1.21 (s, 3H). [M+H] calc'd for C19H22N2O2, 311; found 311.

reactant | 1-(4,4-dimethyl-1,2,3,4-tetrahydronaphthalen-1-yl)methanamine | CC1(CCC(C2=CC=CC=C12)CN)C | C13H19N
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-{[(4,4-dimethyl-1,2,3,4-tetrahydronaphthalen-1-yl)methyl]amino}pyridine-4-carboxylic acid | 17% yield | CC1(CCC(C2=CC=CC=C12)CNC=1C=NC=CC1C(=O)O)C | C19H22N2O2
